US04837337
To 70 g of N-(α-hydroxyethyl)pyrrolidone (0.54 mol), 70 g of methanol (2.2 mol) was added and the mixture was stirred at 20° C. to make a solution. 2 g of dried Diaion PK 208H (cross-linked polystyrenesulfonic acid resin, made by Mitsubishi Chemical Industries Co.) was added to the solution and after 30 minutes of reaction, the reaction mixture was analyzed with a liquid chromatography. The reaction ratio of N-(α-hydroxyethyl)pyrrolidone was 98.6 mol % and the selectivity in forming N-(α-methoxyethyl)pyrrolidone based on N-(α-hydroxyethyl)pyrrolidone was 99.6 mol %.

reactant | N-(α-hydroxyethyl)pyrrolidone | 0.54 mol, 70 g | OC(C)N1C(CCC1)=O | C6H11NO2
reactant | methanol | 2.2 mol, 70 g | CO | CH4O
product | N-(α-methoxyethyl)pyrrolidone | COC(C)N1C(CCC1)=O | C7H13NO2
